US07091228B2
To a cooled solution (0° C.) of 4-iodo-2 fluoroaniline (3.05 g, 12.9 mmol) in tetrahydrofuran (15 mL) and toluene (15 mL), was slowly added a mixture of acetic anhydride (1.39 mL, 14.7 mmol) and formic acid (0.83 mL, 22.0 mmol). The reaction mixture was stirred at rt overnight, then diluted with ethyl acetate (100 mL) and 1N aqueous HCl (100 mL). The layers were separated, and the organic layer was washed with water and saturated sodium carbonate solution, and dried over sodium sulfate. The solvent was removed under reduced pressure to afford 2-fluoro-4-iodophenylformamide as an off-white solid (3.32 g, 97%). GC-MS ret. time 2.27 min, m/z 265 (M+); 1H NMR (300 MHz, CDCl3) δ: 7.37–7.51 (m, 3H), 8.13 (t, 1H), 8.46 (s, 1H).

reactant | 4-iodo-2 fluoroaniline | 12.9 mmol, 3.05 g | IC1=CC(=C(N)C=C1)F | C6H5FIN
reactant | acetic anhydride | 14.7 mmol, 1.39 mL | C(C)(=O)OC(C)=O | C4H6O3
reactant | formic acid | 22.0 mmol, 0.83 mL | C(=O)O | CH2O2
solvent | tetrahydrofuran | 15 mL | O1CCCC1 | C4H8O
solvent | toluene | 15 mL | C1(=CC=CC=C1)C | C7H8
solvent | ethyl acetate | 100 mL | C(C)(=O)OCC | C4H8O2
solvent | HCl | 1N, 100 mL | Cl | ClH
product | 2-fluoro-4-iodophenylformamide | 3.32 g, 97% | FC1=C(C=CC(=C1)I)NC=O | C7H5FINO
